US06110937
To a solution of 3-[4-(tert-butyidimethylsilyloxy)-2,6dimethylphenoxymethyl]-1-methylpiperidine (3.2 g, 8.8 mmol) in tetrahydrofuran (50 mL) containing 20% acetic acid (5.5 mL, 19 mmol) at 0° C. was added 1M tetrabutylammonium fluoride in tetrahydrofuran (17.5 mL). The mixture was stirred from 0° C. to room temperature overnight and concentrated in vacua. The residue was partitioned between water and dichloromethane. The organic layer was dried and concentrated and the residue purified on silica gel, eluting with 5% methanol in dichloromethane containing 0.25% ammonium hydroxide, to give 3-(4-hydroxy-2,6-dimethylphenoxymethyl)-1 -methylpiperidine.

reactant | 3-[4-(tert-butyidimethylsilyloxy)-2,6dimethylphenoxymethyl]-1-methylpiperidine | 8.8 mmol, 3.2 g | [Si](C)(C)(C(C)(C)C)OC1=CC(=C(OCC2CN(CCC2)C)C(=C1)C)C | C21H37NO2Si
reactant | acetic acid | 19 mmol, 5.5 mL | C(C)(=O)O | C2H4O2
reactant | tetrabutylammonium fluoride | 1M | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 17.5 mL | O1CCCC1 | C4H8O
product | 3-(4-hydroxy-2,6-dimethylphenoxymethyl)-1 -methylpiperidine | OC1=CC(=C(OCC2CN(CCC2)C)C(=C1)C)C | C15H23NO2
